US08563575B2
To a mixture of 2-chloro-4-methylpyridin-3-amine (0.75 g) and di-tert-butyl dicarbonate (1.3 mL) in THF (10 mL) was added dropwise hexamethyldisilazane sodium salt (2M in THF, 6.1 mL) at 0° C. The mixture was stirred at 0° C. to room temperature overnight. The mixture was neutralized with 1N HClaq., and the mixture was extracted with AcOEt. The organic layer was dried over MgSO4, and concentrated in vacuo to give tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate (1.2 g) as an orange solid.

reactant | 2-chloro-4-methylpyridin-3-amine | 0.75 g | ClC1=NC=CC(=C1N)C | C6H7ClN2
reactant | di-tert-butyl dicarbonate | 1.3 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexamethyldisilazane sodium salt | 2M, 6.1 mL | [Na].C[Si](N[Si](C)(C)C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate | 1.2 g | ClC1=NC=CC(=C1NC(OC(C)(C)C)=O)C | C11H15ClN2O2
